US06919315B1
A 1.2 M solution of diisobutylaluminum hydride in toluene (30.8 ml, 36.9 mmol) was added at −78° C. to a solution of (3R)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (4.13 g, 16.1 mmol) in diethyl ether (30 ml). The reaction mixture was stirred for 2.5 h at −78° C. Water (9.6 ml) was added dropwise. The reaction mixture was warmed to room temperature. The precipitation was removed by filtration through a plug of celite. The celite was washed with tert-butyl methyl ether (3×100 ml). The liquids were combined and dried over magnesium sulfate. The solvent was removed in vacuo, to give 1.94 g of crude (3R)-3-formylpiperidine-1-carboxylic acid tert-butyl ester, which was used for the next step without further purification.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 36.9 mmol, 30.8 ml | C1(=CC=CC=C1)C | C7H8
reactant | (3R)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 16.1 mmol, 4.13 g | C(C)OC(=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C13H23NO4
reactant | Water | 9.6 ml | O | H2O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | (3R)-3-formylpiperidine-1-carboxylic acid tert-butyl ester | 1.94 g | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)C=O | C11H19NO3
